US07429660B2
2-(4-Methoxymethoxy-thianthren-1-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
1-Bromo-4-methoxymethoxy-thianthrene (2.06 g, 5.80 mmol) was dissolved in anhydrous dioxane (10 ml) and to this solution was added bis(pinacolato)diboron (1.75 g, 6.96 mmol), 1,1-bis(diphenylphosphino)ferrocene (0.18 g, 0.05 mmol) and potassium acetate (1.7 g, 17.40 mmol) under a nitrogen atmosphere. The mixture was degassed for 10 minutes and (1,1′-bis(diphenylphosphino)ferrocene-dichloropalladium(II) dichloromethane adduct (0.24 g, 5% eq) was added. The reaction was heated at 90° C. under a nitrogen atmosphere for 24 hours. The dark brown reaction mixture was then allowed to cool to room temperature before it was applied to a thick silica pad prepared in hexanes and eluted with hexanes:CH2Cl2-(2:1). The eluent was concentrated in vacuo to give a dark brown oil (2.33 g, 100%) that was used for the next transformation with no further purification. RT=5.63 min.

reactant | 1-Bromo-4-methoxymethoxy-thianthrene | 5.80 mmol, 2.06 g | BrC1=CC=C(C=2SC3=CC=CC=C3SC12)OCOC | C14H11BrO2S2
reactant | bis(pinacolato)diboron | 6.96 mmol, 1.75 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 17.40 mmol, 1.7 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1-bis(diphenylphosphino)ferrocene | 0.05 mmol, 0.18 g | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 2-(4-Methoxymethoxy-thianthren-1-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 2.33 g, 100% | COCOC1=CC=C(C=2SC3=CC=CC=C3SC12)B1OC(C(O1)(C)C)(C)C | C20H23BO4S2
